US04165378
Triethylamine (2.02 g.) was added to a suspension of 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole dihydrochloride (3.04 g.) in methanol (30 ml.) stirred at room temperature. Dimethyl (N-cyanoimido)carbonate (1.14 g.) was added and the mixture was stirred at room temperature for 3 hours and then evaporated under reduced pressure. The residue was extracted with ethyl acetate (35 ml.) and the solution was washed with water (25 ml., 10 ml.) then dried (magnesium sulphate) and evaporated under reduced pressure to give 2-guanidino-4-[2-(3-cyano-2-methylisoureido)ethylthiomethyl]thiazole (2.16 g.). The n.m.r. spectrum in CDCl3 /d6 dimethyl sulphoxide using tetramethylsilane as internal standard had the following resonances (δ): 7.7 (1H, very broad); 6.7 (4H, broad); 6.4 (1H, singlet); 3.8 (3H, singlet); 3.6 (2H, singlet); 3.4 (obscured by H2O); 2.7 (2H, broad triplet).

reactant | Triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole dihydrochloride | 3.04 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | Dimethyl (N-cyanoimido)carbonate | 1.14 g | COC(=NC#N)OC | C4H6N2O2
solvent | methanol | 30 ml | CO | CH4O
product | 2-guanidino-4-[2-(3-cyano-2-methylisoureido)ethylthiomethyl]thiazole | 2.16 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(OC)=NC#N | C10H15N7OS2
